US06977267B2
(5R*,6S*)-6-(4-Bromophenyl)-3-(3,5-dichlorophenyl)-1-methyl-1,3-diazaspiro[4.5]decane-2,4-dione
Using the same procedure as in Example 1 starting from 1-bromo-4-(1,5-dibromopentyl)benzene (4.2 g, 10.9 mmol) (Preparation 14) and 3-(3,5-dichlorophenyl)-1-methylimidazolidine-2,4-dione (2.59 g, 10 mmol), the above titled compound was obtained as a white solid (3.1 g, mp=118° C.). 1H NMR (CDCl3): 7.41 (2H, d, J=8.4 Hz), 7.30 (1H, m), 7.00 (2H, d, J=8.4 Hz), 6.90 (2H, m), 3.03 (3H, s), 2.91 (1H, dd, J1=12.9 Hz, J2=3.6 Hz), 2.55 (1H, dq), 2.1-2.3 (1H, m), 1.8-2.05 (5H, m), 1.3-1.6 (1 H, m).

reactant | 1-bromo-4-(1,5-dibromopentyl)benzene | 10.9 mmol, 4.2 g | BrC1=CC=C(C=C1)C(CCCCBr)Br | C11H13Br3
reactant | 3-(3,5-dichlorophenyl)-1-methylimidazolidine-2,4-dione | 10 mmol, 2.59 g | ClC=1C=C(C=C(C1)Cl)N1C(N(CC1=O)C)=O | C10H8Cl2N2O2
product | (5R*,6S*)-6-(4-Bromophenyl)-3-(3,5-dichlorophenyl)-1-methyl-1,3-diazaspiro[4.5]decane-2,4-dione | BrC1=CC=C(C=C1)[C@H]1[C@@]2(C(N(C(N2C)=O)C2=CC(=CC(=C2)Cl)Cl)=O)CCCC1 | C21H19BrCl2N2O2
